US05030654
3-(1-Carboxycyclopentyl)-2(methoxymethyl)propanoic acid t-butyl ester
A solution of t-butyl 3-(1-carboxycyclopentyl)propanoate (1.0 g, 4.13 mmole) in dry tetrahydrofuran was added to a stirred solution of lithium diisopropylamide (9.29 mmole) in dry tetrahydrofuran (50 ml) at -78° C. under nitrogen. After 0.5 hours, chloromethyl methyl ether (0.53 g, 6.58 mmole) was added and the mixture was allowed to warm to room temperature over 16 hours. The solution was poured into water, acidified to pH 3 with 2N hydrochloric acid and extracted with ethyl acetate (3×50 ml). The organic layer was separated, dried over magnesium sulphate and evaporated to give a colourless oil that was chromatographed on silica gel eluting with a mixture of diethyl ether and dichloromethane (1:9-1:4 by volume). Evaporation of the appropriate fractions gave the title compound as a colourless oil (0.78 g, 66%). Found: C,62.75; H,8.94. C15H26O5 requires: C,62.91; H,9.15%.

reactant | t-butyl 3-(1-carboxycyclopentyl)propanoate | 4.13 mmole, 1.0 g | C(=O)(O)C1(CCCC1)CCC(=O)OC(C)(C)C | C13H22O4
reactant | lithium diisopropylamide | 9.29 mmole | C(C)(C)[N-]C(C)C.[Li+]
reactant | chloromethyl methyl ether | 6.58 mmole, 0.53 g | COCCl | C2H5ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(1-Carboxycyclopentyl)-2(methoxymethyl)propanoic acid t-butyl ester | 0.78 g, 66% | C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)O)COC)=O | C15H26O5
